Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
Augmentin / ___
 
Attending: ___.
 
Chief Complaint:
"Severe depression and anxiety." 
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr. ___ is a ___ year old college
freshman with a history of depression, anxiety, and frequent
cannabis use, who was brought to the ED by his mother at the
advice of his college counseling center due to worsening
depression and SI with plan. He reports that he has been feeling
depressed for about ___ years and anxious for the past year or 
two,
but that things began to get acutely worse about a month and a
half ago. He endorses anhedonia, feeling hopeless and worthless,
constant fatigue, loss of appetite, loss of motivation and
concentration to the point where he cannot get out of bed to do
basic ADLs or IADLs like showering or laundry, and also notes
that he has been prescribed Prozac by his outpatient 
psychiatrist
but does not have the motivation to get out of bed to take it,
and so has only been taking it ___ times per week. He also notes
that he has body image issues and has been restricting his
eating, leading to a 40 lb weight loss over last semester. He
states that he has been trying to eat more this semester because
the weight loss concerns him, though has not put back much
weight. He endorses difficulty falling asleep and then 
difficulty
waking up once he does fall asleep. He endorses poor
concentration and memory. He states that for the past month and 
a
half, he has been having suicidal thoughts with plan to jump in
front of a car, and that one night two nights ago at 4 AM he 
went
out to sit by the highway to plan where to jump from. When I
asked him how he felt about this now, he states "I realized the
circumstances wouldn't change if I died," and when I asked for
clarification, he said "I just feel so numb I don't care if I
live or die." He endorses ongoing SI with thoughts of jumping in
front of traffic. He disclosed these thoughts and his going out
to plan two nights ago to a counselor at ___ today, and per
the patient, the counselor advised the patient to return home to
family and reached out to his family advising them to bring him
to the ED, which his mother did.  

He also notes that he has been trying to self-medicate his
depression and anxiety with cannabis, which he estimates he uses
1 gram of daily. He feels that his cannabis use is interfering
with his functioning and notes that he feels uncomfortable
(jittery, hot flashes) if he does not use it. 

He notes that his depression initially began with increased
irritability when he was ___ after multiple sports related
injuries (two concussions from skiing and soccer injuries
necessitating bilateral ACL replacements) and notes that a month
and a half ago his symptoms began to get acutely worse after
returning to school from ___, but he cannot identify 
any
other particular stressors at that time. He does state that he
constantly feels like an outsider and does not feel like he has 
a
good support system at school. He also reports that he changed
his major from premed to art this past semester and that his
grades have dropped significantly this semester compared to last
semester. 

Psych ROS
Depression - anhedonia, fatigue, SI w/plan, hopelessness,
worthlessness, poor appetite, poor sleep as per HPI, depressed
mood, poor concentration and memory. Also endorses self 
injurious
behavior  last semester (burning self with lighter; also notes
that he likes fire) 
Mania - denies manic symptoms including no racing thoughts,
increased goal directed activities, decreased need for sleep
Psychosis - denies AH/VH, paranoia, delusional thought content
Eating disorder - endorses restrictive eating w/40 lb wt loss,
denies excessive exercise, denies purging behaviors
Anxiety - endorses constant worrying, also endorses some OC
traits (liking things organized in specific ways)

COLLATERAL: 
Mother - ___ ___
He's in college now, the first she heard about things getting
worse was one month ago when one of his friends notified her 
that
he's skipping classes, having trouble sleeping. She believes 
this
all started around the time he was ___ when he needed his ACLs
repaired (x2), states he lost his identity at that time and has
not found it since. Notes he was always hyperactive as a child,
had a brain hermorrhage at birth. When she had him tested for
ADHD, results were always borderline. She wanted him to take a
gap year, had suspected he was not ready for college. Worries
that he compares himself to his academically successful 
sibilings
and feels badly about himself as a result. States that on 
___
he texted her stating that he needed help, that nothing was
exciting him and that he was completely debilitated, and 
sleeping
all day and staying awake all night. He also reported not going
to classes. Then got a call from school today telling her about
his plan for suicide and advised her to bring him in to the ED.
She feels very worried for his safety, describes herself as
"terrified." Really wants him to get help. Is concerned he will
hurt himself if not hospitalized in a safe unit. Is also
concerned about how much weight he has lost and how he is not
taking care of himself, describes him as "a shadow of his former
self." 

 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
 Hospitalizations: Reports one prior ED evaluation at ___,
was not hospitalized. No prior hospitalizations. 
 Past diagnoses: MDD
 Medication and ECT trials: Prozac, which he only takes ___
times/week (is prescribed as daily)
 Current treaters and treatment: Dr. ___ is his current
psychiatrist and he has a therapist Dr ___, has been seeing
counselors in counseling center at college as well 
 Suicide attempts: Denies
 Self-injury: Burned self with lighter during last semester as
above
 Trauma: Denies, though describes immigrating from ___ at age
___ as very difficult
 Harm to others: denies
 Access to weapons: denies 

PAST MEDICAL HISTORY:
Stage IV brain hemorrhage at birth
2 concussions in ___ from skiing
Tore ACL x 2 (b/l) from playing soccer at age ___
Asthma in childhood
No history of seizures

 
Social History:
___
Family History:
Psychiatric illness: Has a great aunt on dad's side with
schizophrenia whose son committed suicide (unknown dx), mom's
side of the family has depression
 
Physical Exam:
EXAM: 
 *VS:  temp: 98.4 HR: 72 BP: 140/76  resp: 18  O2 sat: 99% 

 Neurological:  
  *station and gait: normal stance, no truncal ataxia, steady
gait
  *tone and strength: moves all four extremities spontaneously
against gravity
  cranial nerves: no gross facial asymmetry, eyes track examiner
appropriately
  abnormal movements: no adventitious movements or abnormal
posturing noted
  frontal release: not assessed

Cognition: 
  Wakefulness/alertness: awake, alert
  *Attention (digit span, MOYB): Able to perform DOWB without
error
  *Orientation: oriented to self, place, date, situation
  Executive function (go-no go, Luria, trails, FAS): did not
assess
  *Memory:  Registers and recalls ___ after 3 minutes 
  *Fund of knowledge: Consistent with level of education; able 
to
name ___ play by ___ and identify MLK as associated with
___ Movement
  Calculations: Intact to 7 quarters in $1.75
  Abstraction: appropriately interprets book/cover proverb
  Visuospatial: not assessed
  *Speech: Regular rate, rhythm, volume 
  *Language: Fluent ___ without paraphasic errors
  
 Mental Status:
  *Appearance: Fair hygiene, appears stated age 
  Behavior: Calm, cooperative with interview
  *Mood and Affect: "Depressed"/Mood congruent, restricted in
range, dysphoric 
  *Thought process / *associations: Linear, goal directed, no 
LOA
  *Thought Content: SI w/plan as per HPI, no HI, no evidence of
internal preoccupation or psychotic thought content
  *Judgment and Insight:  limited/limited

Mental status exam on discharge:
Appearance: Well-groomed 
facial expression: Friendly, smiling on approach
build: WNL
behavior: engaging, pleasant, cooperative
Eye contact: direct
psychomotor: no abnormal involuntary movements, gait - normal,
Speech: normal rate, volume and tone
Mood/affect "I feel better ", stable, no irritability, no angry
outbursts
thought process/content: reality oriented, goal directed, denies
SI/HI, denies AH/VH/delusions
Intellectual Functioning: fair concentration
Oriented: x4
Memory: grossly intact
Insight: fair
Judgment: fair

 
Pertinent Results:
___ 06:09AM BLOOD WBC-8.6 RBC-5.13 Hgb-15.3 Hct-44.3 MCV-86 
MCH-29.8 MCHC-34.5 RDW-12.4 RDWSD-38.8 Plt ___
___ 08:40PM BLOOD Glucose-71 UreaN-18 Creat-1.2 Na-145 
K-4.1 Cl-102 HCO3-26 AnGap-17
___ 06:09AM BLOOD Triglyc-70 HDL-42 CHOL/HD-3.2 LDLcalc-78
___ 06:09AM BLOOD Cholest-134
___ 06:09AM BLOOD TSH-0.98
___ 08:40PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 10:50PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-2* pH-7.0 Leuks-TR*
___ 10:50PM URINE Color-Yellow Appear-Clear Sp ___
___ 10:50PM URINE RBC-1 WBC-<1 Bacteri-NONE Yeast-NONE 
Epi-0
___ 10:50PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG
 
Brief Hospital Course:
1. LEGAL & SAFETY:  

On admission, Mr. ___ signed a conditional voluntary 
agreement (Section 10 & 11) and that legal status remained in 
place throughout admission.  Mr. ___ was also placed on 15 
minute checks status on admission, he was changed to q5m checks 
for less than 1 day after he reported passive SI, but was 
reverted back to q15m checks, as this was felt to be appropriate 
again and remained on that level of observation the rest of the 
admission while being unit restricted.

2. PSYCHIATRIC:

#) Unspecified depressive disorder
___ yo M, ___ student with PPHx notable for 
depression, anxiety, cannabis use disorder who was brought to 
the ED by his mother after he endorsed worsening depression and 
SI with plan to jump in front of a car to his college counselor. 

During his ED interview, the patient endorsed suicidal ideation 
with plan to jump in front of traffic, difficulty completing 
ADLs due to depressive symptoms, and 40 lb weight loss due to 
loss of appetite and restrictive eating. Collateral obtained 
with mother indicated that she was concerned for her son's 
safety and ability to take care of himself given his weight loss 
and severity of depression. His exam was significant for a 
depressed affect, but thought content otherwise normal, and 
affect reactive, displaying full range of appropriate emotions 
during interactions. He had
been inconsistently taking fluoxetine as an outpatient, for 
several reasons: not feeling motivated to take medication, 
sexual side effects, forgetting. Additionally, he has difficulty 
sleeping and had been taking it at night. Given its activating
nature, we discontinued fluoextine to try to improve his sleep, 
and to improve adherence by switching to Effexor. Which should 
have some further additional benefit as well given his severe 
depression. He was initially started on 37.5 mg XR Effexor 
daily, this was increased to 75 mg, which was his discharge 
dose. He did not report any side effects from Effexor and was 
informed that he should not discontinue this abruptly as it can 
cause withdrawal symptoms. His mood improved while he was 
admitted but was noted to have volatile mood, when encountering 
stressors he would quickly develop a depressed mood, and during 
one instance reported SI afterwards, resulting in him being on 
q5m checks for <1 day. As he did not have a current therapist, 
referrals were made for him for outpatient follow up. A family 
meeting was held with him, his parents where they were updated 
on the prognosis and plan. Given his overall progress while 
admitted, he was felt to be safe for discharge and discharged 
home.
-continue Effexor XR 75 mg daily, titrate up as necessary

3. SUBSTANCE USE DISORDERS:

#) Cannabis use disorder
-provided substance cessation counseling
-prescribed nicotine replacement therapy for withdrawal symptoms

#smoking
-nicotine gum PRN

4. MEDICAL

Mr. ___ was medically cleared in the ED; no acute  medical 
issues prevented admission to Deac 4.  Additionally, Mr. 
___ has no chronic medical issues requiring attention.

5. PSYCHOSOCIAL

#) GROUPS/MILIEU:  

Mr. ___  was encouraged to participate in the various 
groups and milieu therapy opportunities offered by the unit.  
The occupational therapy and social work groups that focus on 
teaching patients various coping skills. Mr. ___ often 
attended these groups.  Mr. ___ was visible on the milieu 
and appropriately interacted with staff and peers.

#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT:

Mr. ___ gave verbal and written permission for the team to 
contact his outpatient psychiatrist/therapist, Dr. ___ 
was provided with a summary of his presentation to the ___ 
ED/Deac 4 and an update of her progress since admission on Deac 
4. Mr. ___ did not have an outpatient therapist while 
admitted, but was referred to one upon discharge.

Mr. ___ gave verbal and written permission for the team to 
contact his family member, ___, and a family meeting was 
held with his parents who were also given an update on Mr. 
___ progress while admitted and discharge plan. 

#) GUARDIANSHIP:

None required, patient able to make own decisions.

6. INFORMED CONSENT: 

Medication: venlafaxine (effexor)

---Intended effects/Benefits: treatment of mood stabilization, 
depression, anxiety

---Adverse effects/Risks: insomnia, dizziness, drowsiness, 
diaphoresis, nausea, xerostomia, weakness, vasodilation, 
hypotension, orthostatic hypotension, syncope, tachycardia, 
nervousness, yawning, anorgasmia, abnormal dreams, akathisia, 
vomiting, tremor, diarrhea, constipation

Mr. ___ was informed of alternative treatments, the 
consequences of no treatment, and the expected duration of 
treatment. He appeared to appreciate the information conveyed in 
the consent process by asking appropriate questions, which were 
answered by the treatment team, and expressing understanding of 
the potential risks and benefits (see above).  Prior to starting 
treatment, the team also discussed the patient's right to decide 
whether to take this medication as well as the importance of the 
patient's actively participating in the treatment.  Mr. ___ 
understood the above and consented to begin the medication.

7. RISK ASSESSMENT

On presentation, Mr. ___ was evaluated and felt to be at an 
increased risk of harm to himself. Mr. ___ static and 
modifiable risk factors noted at that time include active SI 
with plan, history of self-injurious behavior, acute 
psychosocial stressors of transition to college & living away 
from home, hopelessness,medical non-compliance, history of 
medical illness, active/chronic drug use (cannabis), male 
gender, age, single status. These modifiable risk factors were 
addressed with acute stabilization in a safe environment on a 
locked inpatient unit, psychopharmacologic adjustments, 
psychotherapeutic interventions (OT groups, SW groups, 
individual therapy meetings with psychiatrists), and presence on 
a social milieu environment.  Mr. ___ is being discharged 
with many protective factors, including help-seeking behavior, 
consistent outpatient follow-up, social support from mother, 
stable housing no access to lethal weapons, however these are 
not sufficient to mitigate his risk to himself at this time 
given his ongoing SI
with plan and the extent of his depressive symptoms. Overall, 
based on the totality of our assessment at this time, Mr. 
___ is not at an acutely elevated risk of harm to self nor 
danger to others. 

Our prognosis of this patient is fair.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. PARoxetine 40 mg PO DAILY 

 
Discharge Medications:
1.  Nicotine Lozenge 2 mg PO Q2H:PRN nicotine craving 
RX *nicotine (polacrilex) [Nicorette] 2 mg  every 2 hours as 
needed Disp #*81 Lozenge Refills:*0 
2.  Venlafaxine XR 75 mg PO DAILY 
RX *venlafaxine 75 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major depressive disorder
Anxiety nos
Cannabis use disorder
Unspecified eating disorder [restrictive type]

 
Discharge Condition:
Mental status: Linear, logical, organized thoughts.
Level of consciousness: Alert and interactive.
Activity status: Ambulatory without assistance, independent with 
ADLs and iADLs.

 
Discharge Instructions:
Dear Mr. ___, you were hospitalized at ___ for suicidal 
thoughts, anxiety.

-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___